2134-08-07 06:43:00 Physician Resident Progress Note
Chief Complaint: intubated post-op
   24 Hour Events:
   - received 115mg valium, 16mg morphine and 5mg haldol over the course
   of the day.
   - patient's family came to visit and were aggitated.  They talked to
   the ortho attending and this seemed to calmed them down.
 BLOOD CULTURED - At [**2134-8-6**] 11:31 AM
 TRANS ESOPHAGEAL ECHO - At [**2134-8-6**] 03:14 PM
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Vancomycin - [**2134-8-6**] 07:54 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2134-8-6**] 03:12 PM
   Midazolam (Versed) - [**2134-8-6**] 03:13 PM
   Heparin Sodium (Prophylaxis) - [**2134-8-6**] 03:44 PM
   Dextrose 50% - [**2134-8-6**] 05:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-8-7**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 90 (88 - 121) bpm
   BP: 99/62(70) {90/39(34) - 127/88(165)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 65.3 kg
    CVP: 5 (-2 - 16)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  4,250 mL
                                                                    613 mL
   PO:
                                                                  1,140 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,085 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,070 mL
   Urine:
                                                                  3,600 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    650 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.4 g/dL
   156 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   2 mg/dL
   111 mEq/L
   138 mEq/L
   25.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-8-4**]  05:45 AM
                             [**2134-8-4**]  09:53 AM
                             [**2134-8-4**]  05:24 PM
                             [**2134-8-5**]  04:23 AM
                             [**2134-8-6**]  05:00 AM
                             [**2134-8-7**]  04:18 AM
   WBC
   9.8
   6.1
   4.8
   4.9
   Hct
   34.1
   32.5
   28.6
   25.6
   Plt
   364
   328
   228
   193
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.7
   Glucose
   95
   67
   148
   136
   68
   156
   Other labs: PT / PTT / INR:12.2/38.8/1.0, Ca++:8.1 mg/dL, Mg++:1.4
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 BACTEREMIA
 .H/O DIABETIC KETOACIDOSIS (DKA)
 .H/O HYPERTENSION, BENIGN
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETIC KETOACIDOSIS (DKA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-8-5**] 03:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-08-07 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-8-6**] 11:31 AM
 TRANS ESOPHAGEAL ECHO - At [**2134-8-6**] 03:14 PM
   - TEE negative for vegetations
   - Scv O2 was 66% in the afternoon and she received a 500cc bolus
   - has continued pain from diffuse neuralgias/arthralgias
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Vancomycin - [**2134-8-6**] 07:54 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2134-8-6**] 03:12 PM
   Midazolam (Versed) - [**2134-8-6**] 03:13 PM
   Dextrose 50% - [**2134-8-6**] 05:23 PM
   Heparin Sodium (Prophylaxis) - [**2134-8-7**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-8-7**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 98 (88 - 121) bpm
   BP: 99/63(71) {90/39(34) - 127/88(165)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 65.3 kg
    CVP: 3 (2 - 16)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  4,250 mL
                                                                    636 mL
   PO:
                                                                  1,140 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,085 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,470 mL
   Urine:
                                                                  3,600 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    650 mL
                                                                   -834 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General: Soft-spoken female lying in bed on her back.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Tachycardic, regular, normal S1 + loud S2. No m/r/g.
   Abdomen: soft, diffuse mild tenderness to palpation, non-distended,
   bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   Ext: + diffuse multi joint pain with some violaceous lesions on finger
   tips (c/w finger sticks?), Warm feet, 2+ pulses. Cold hands, 2+pulses.
   no clubbing, cyanosis or edema
   Labs / Radiology
   193 K/uL
   8.4 g/dL
   156 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   2 mg/dL
   111 mEq/L
   138 mEq/L
   25.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-8-4**]  05:45 AM
                             [**2134-8-4**]  09:53 AM
                             [**2134-8-4**]  05:24 PM
                             [**2134-8-5**]  04:23 AM
                             [**2134-8-6**]  05:00 AM
                             [**2134-8-7**]  04:18 AM
   WBC
   9.8
   6.1
   4.8
   4.9
   Hct
   34.1
   32.5
   28.6
   25.6
   Plt
   364
   328
   228
   193
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.7
   Glucose
   95
   67
   148
   136
   68
   156
   Other labs: PT / PTT / INR:12.2/38.8/1.0, Ca++:8.1 mg/dL, Mg++:1.4
   mg/dL, PO4:2.1 mg/dL
   TSH 0.068, fT4 1.2
   Assessment and Plan
 BACTEREMIA
 .H/O DIABETIC KETOACIDOSIS (DKA)
 .H/O HYPERTENSION, BENIGN
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 DIABETIC KETOACIDOSIS (DKA)
   This is a 55 year old female with DMI and multiple admissions for DKA,
   gastroparesis, HTN, who presents with DKA, found to have GPC
   bacteremia.
   .
   #Sepsis: Patient has been having tachycardia and low SBP (80-90s), flat
   JVP, CVP=6. Sepsis likely due to GPC bacteremia. Responsive to 500 cc
   NS boluses. Initially, unsure if septic vs. hypovolemic shock or mixed
   etiology. SvO2 66%, given IVF, responded well. Will continue to give
   gentle IV bolus as needed
   -Follow CVP, UOP.
   # Bacteremia: GPC coag negative clusters x3, started on vanc. Also with
   questionable baseline belly/back pain vs abscess vs osteo. TTE/TEE
   showed no e/o endocarditis.
   - consider abd CT/MRI for other etiologies mentioned above if worsens.
   Hypotension likely related to bacteremia.
   - Continue NS boluses as needed.
   - f/u culture sensitivities for coag neg staph
   - Continue Vanco (Day 2)
   - Need to check vanco trough.
   - Will get TEE today, so currently NPO  on D5W.
   .
   #  DKA:  Pt has had many admissions in the past few years for DKA.  On
   this admission there was no e/o inciting cause for DKA initially,
   however, BCx were with GPC clusters x3. Patient
s gap closed. Increased
   fingersticks,. Currently taking PO food. FSBGs well controlled, with
   except at night they occ increase to 200s, and they are low in the 60s
   in the AM. Pt currently on fixed dose 21 Lantus [**Hospital1 **], and ISS.
   - will review and trend FSBG today as patient PO intake improves and
   titrate fixed dose vs ISS.
   - check glucose QID.
   .
   # Pain control: probably secondary to RA and diabetic neuropathy
   - increased home nuerontin to 900 tid
   - fentanyl patch
   .
   #  HTN:  Hypertensive on arrival to the [**Hospital Unit Name 44**], but curently hypotensive
   likely due to GPC bacteremia. Will hold home BP meds.
   - Hold Losartan
   .
   # Rheumatoid Arthritis: diffuse polyarthralgias today, probable
   baseline RA. If worsens or becomes more focal can consider septic
   arthritis w/u.
   - cont home sulfasalazine
   .
   #  [**Doctor Last Name 598**] disease:  TSH suppressed, but TFTs consistent with sick
   euthyroid.
   - cont methimazole
   .
   #  GERD: cont protonix
   .
   #  Depression: cont amitriptyline
   ICU Care
   Nutrition:
   Glycemic Control:  ISS with standing home Lantus per above
   Lines:
   Multi Lumen - [**2134-8-5**] 03:48 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to medicine today

2134-08-07 11:32:00 Physician Attending Progress Note
Chief Complaint: DKA
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-8-6**] 11:31 AM
 TRANS ESOPHAGEAL ECHO - At [**2134-8-6**] 03:14 PM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown; Urtica
   Last dose of Antibiotics:
   Vancomycin - [**2134-8-6**] 07:54 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2134-8-6**] 03:12 PM
   Midazolam (Versed) - [**2134-8-6**] 03:13 PM
   Dextrose 50% - [**2134-8-6**] 05:23 PM
   Heparin Sodium (Prophylaxis) - [**2134-8-7**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Pain: [**3-24**] Mild
   Pain location: arthralgias
   Flowsheet Data as of  [**2134-8-7**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 102 (90 - 121) bpm
   BP: 99/71(78) {89/39(34) - 127/88(165)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.4 kg (admission): 65.3 kg
   CVP: 3 (2 - 16)mmHg
   Total In:
                                                                  4,250 mL
                                                                    705 mL
   PO:
                                                                  1,140 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,085 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,470 mL
   Urine:
                                                                  3,600 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    650 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
no murumurs today on close
   examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   193 K/uL
   156 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   2 mg/dL
   111 mEq/L
   138 mEq/L
   25.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-8-4**]  05:45 AM
                             [**2134-8-4**]  09:53 AM
                             [**2134-8-4**]  05:24 PM
                             [**2134-8-5**]  04:23 AM
                             [**2134-8-6**]  05:00 AM
                             [**2134-8-7**]  04:18 AM
   WBC
   9.8
   6.1
   4.8
   4.9
   Hct
   34.1
   32.5
   28.6
   25.6
   Plt
   364
   328
   228
   193
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.7
   Glucose
   95
   67
   148
   136
   68
   156
   Other labs: PT / PTT / INR:12.2/38.8/1.0, Ca++:8.1 mg/dL, Mg++:1.4
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55 yo female with history of DM and now admitted with DKA and found to
   have significant bacteremia with gram-positive cocci but source not
   clearly defined.  With Rx empirically patient has had substantial
   improvement with resolution of significant acidosis.
   1)DKA-
   -Continue with po intake
   -Continue with SQ insulin dosing
   2)Sepsis and Bacteremia-
   -Vanco to continue for coag negative staph
   -BP continues with low normal readings
   -GPCs without clear source identified but clinical scenario would
   suggest clearing
   -Will need to continue to monitor BP as has been slow to respond
   3)Joint Pain-
   -Will continue to dose pain medicaitons on an as needed basis
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 .H/O HYPERTENSION, BENIGN
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   ANEMIA
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-8-5**] 03:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes